US04209621
3-Methyl-6-phenyl-1,2,4-triazolo[4,3-a]pyrimidine
A mixture of 3.0 g. of 2-hydrazino-5-phenylpyrimidine and 30 ml. of triethyl orthoacetate is heated under reflux overnight. The material which separates is collected, washed with hexane, and crystallized from acetone-hexane to give 2.2 g. of the product of the Example, m.p. 199°-200° C.

reactant | 2-hydrazino-5-phenylpyrimidine | N(N)C1=NC=C(C=N1)C1=CC=CC=C1 | C10H10N4
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | 3-Methyl-6-phenyl-1,2,4-triazolo[4,3-a]pyrimidine | CC1=NN=C2N1C=C(C=N2)C2=CC=CC=C2 | C12H10N4
